US05998436
Synthesis of 3,5,6-trifluoro-2-(methylamino)pyridine
To 10 ml of acetonitrile were added 4.5 g of 2,3,5,6-tetrafluoropyridine and 10 ml of methylamine (10% aqueous solution), and the mixture was stirred at 50° C. for 2 hours. To the solution was added 50 ml of chloroform, and the mixture was washed four times with 250 ml of distilled water. The chloroform layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure to obtain the title compound as a pale brown crude oil.

reactant | acetonitrile | 10 ml | C(C)#N | C2H3N
reactant | 2,3,5,6-tetrafluoropyridine | 4.5 g | FC1=NC(=C(C=C1F)F)F | C5HF4N
reactant | methylamine | 10 ml | CN | CH5N
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 3,5,6-trifluoro-2-(methylamino)pyridine | FC=1C(=NC(=C(C1)F)F)NC | C6H5F3N2
